US06750231B2
1-(2-(1-Perhydroazepinyl)ethyl)-3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine
A solution of 1-(2-chloroethyl)perhydroazepine hydrochloride (42 mg, 0.21 mmol) in N,N-dimethylformamide (1 mL) was treated with triethylamine (30 μL, 0.22 mmol) then transferred to a flask containing 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine (Preparation 44, 45 mg, 0.176 mmol) in N,N-dimethylformamide (2 mL). Sodium iodide (32 mg, 0.21 mmol) and sodium hydrogencarbonate (18 mg, 0.21 mmol) were added and the resultant mixture was heated at 60° C. overnight. The solvent was then removed in vacuo and the residue was partitioned between saturated aqueous sodium hydrogencarbonate solution (5 mL) and dichloromethane (5 mL). The phases were separated and the aqueous layer was further extracted with dichloromethane (2×5 mL). The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by reversed phase preparative HPLC (condition 2) to give the acetate salt of the title compound. The free base was obtained by treating with dilute aqueous ammonia solution (2 mL) and extracting with ether (4×3 mL). Drying over Na2SO4, filtering and evaporation to dryness gave the title compound as a white solid (16 mg, 24%).

reactant | 1-(2-chloroethyl)perhydroazepine hydrochloride | 0.21 mmol, 42 mg | Cl.ClCCN1CCCCCC1
reactant | triethylamine | 0.22 mmol, 30 μL | C(C)N(CC)CC | C6H15N
reactant | 3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | 0.176 mmol, 45 mg | CC1CNCCC1(C1=CC(=CC=C1)C=1N=NNC1)C | C15H20N4
reactant | Sodium iodide | 0.21 mmol, 32 mg | [I-].[Na+]
reactant | sodium hydrogencarbonate | 0.21 mmol, 18 mg | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-(2-(1-Perhydroazepinyl)ethyl)-3,4-dimethyl-4-(3-(1H-1,2,3-triazol-4-yl)phenyl)piperidine | N1(CCCCCC1)CCN1CC(C(CC1)(C1=CC(=CC=C1)C=1N=NNC1)C)C | C23H35N5
